US05221676
5-Amino-1-cyclopropyl-6,8-difluoro-1,4-dihydro-7-[3-[4-[(methylamino)methyl]phenyl]-1-pyrrolidinyl]-4-oxo-3-quinolinecarboxylic acid
Starting from 5-amino-1-cyclopropyl 6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid (0.89 g, 3.0 mmol) and N-methyl-4-(3-pyrrolidinyl)benzenemethanamine, a procedure analogous to that given in Example 1 provided the title compound (0.71 g, 51%) as a yellow solid, mp 201°-205° C.

reactant | 5-amino-1-cyclopropyl 6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 3.0 mmol, 0.89 g | NC1=C2C(C(=CN(C2=C(C(=C1F)F)F)C1CC1)C(=O)O)=O | C13H9F3N2O3
reactant | N-methyl-4-(3-pyrrolidinyl)benzenemethanamine | CNCC1=CC=C(C=C1)C1CNCC1 | C12H18N2
product | 5-Amino-1-cyclopropyl-6,8-difluoro-1,4-dihydro-7-[3-[4-[(methylamino)methyl]phenyl]-1-pyrrolidinyl]-4-oxo-3-quinolinecarboxylic acid | 0.71 g, 51% | NC1=C2C(C(=CN(C2=C(C(=C1F)N1CC(CC1)C1=CC=C(C=C1)CNC)F)C1CC1)C(=O)O)=O | C25H26F2N4O3
